US06211234B1
A solution of ethyl 3-(2,4-dibenzyloxyphenyl)isoxazole-5-carboxylate (2.2 g) in hot methanol (100 mL) is treated with 10% aqueous potassium hydroxide solution (10 mL w/v) and the mixture is heated to reflux for 2 hours. The reaction mixture is evaporated to low bulk, stirred with 1 N hydrochloric acid (50 mL) for 15 minutes and filtered. The resulting solid is washed with water, dried and crystallised from ethyl acetate to give 3-(2,4-dibenzyloxyphenyl)isoxazole-5-carboxylic acid (1 g), in the form of a white solid, m.p. 192-193° C. [Elemental analysis:- C,71.7; H,4.67; N,3.34%. Calculated:- C,71.8; H,4.77; N,3.49%].

reactant | ethyl 3-(2,4-dibenzyloxyphenyl)isoxazole-5-carboxylate | 2.2 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NOC(=C1)C(=O)OCC | C26H23NO5
reactant | potassium hydroxide | 10 mL | [OH-].[K+]
solvent | methanol | 100 mL | CO | CH4O
product | 3-(2,4-dibenzyloxyphenyl)isoxazole-5-carboxylic acid | 1 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NOC(=C1)C(=O)O | C24H19NO5
